US08735406B2
Process of 2-(3-aminophenyl)-9-methyl-7-(pyrrolidin-1-ylcarbonyl)-7,9-dihydro-8H-purine-8-one
To a solution of 2-(3-nitrophenyl)-9-methyl-7-(pyrrolidin-1-ylcarbonyl)-7,9-dihydro-8H-purine-8-one <the compound of Example 203> (41 mg) in methanol (10 ml) was added 10% palladium on carbon (10 mg) and the mixture was stirred for 2 hours at room temperature under hydrogen atmosphere. After removing the catalyst from the reaction mixture, the solvent was evaporated under reduced pressure, and the residue was dried to give the title compound 35 mg.

reactant | 2-(3-nitrophenyl)-9-methyl-7-(pyrrolidin-1-ylcarbonyl)-7,9-dihydro-8H-purine-8-one | [N+](=O)([O-])C=1C=C(C=CC1)C1=NC=C2N(C(N(C2=N1)C)=O)C(=O)N1CCCC1 | C17H16N6O4
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium on carbon | 10 mg | [Pd] | Pd
product | 2-(3-aminophenyl)-9-methyl-7-(pyrrolidin-1-ylcarbonyl)-7,9-dihydro-8H-purine-8-one | 35 mg | NC=1C=C(C=CC1)C1=NC=C2N(C(N(C2=N1)C)=O)C(=O)N1CCCC1 | C17H18N6O2
